US08293768B2
Synthesis of methyl 3-((3-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoate
Following the procedure as described in Example 23, making variations as required to replace 4-(chloromethyl)benzonitrile with methyl 3-(bromomethyl)benzoate to react with N-benzyl-4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxamide, the title compound was obtained as a colorless solid in 43% yield: mp 49-51° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.01-7.94 (m, 2H), 7.53-7.31 (m, 7H), 5.91 (br s, 1H), 4.58 (d, J=6.0 Hz, 2H), 4.53 (s, 2H), 4.12-4.06 (m, 2H), 3.92 (s, 3H), 3.50-3.44 (m, 2H), 2.62 (s, 3H); MS (ES+) m/z 465.2 (M+1).

reactant | 4-(chloromethyl)benzonitrile | ClCC1=CC=C(C#N)C=C1 | C8H6ClN
reactant | methyl 3-(bromomethyl)benzoate | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | N-benzyl-4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(NCC1)=O)C | C15H16N4O2S
product | methyl 3-((3-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoate | 43% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1C(N(CC1)CC=1C=C(C(=O)OC)C=CC1)=O)C | C24H24N4O4S
